US07674906B2
4-Chloro-2-(4-nitrophenyl)-quinoline-3-carboxylic acid ethyl ester (2.86 g, 0.008 mol) and 4-hydrazino-benzoic acid methyl ester hydrochloride (1.7 g, 0.008 mol) were stirred in n-butanol (70 mL) at 120° C. for 24 h. The bright orange suspension was diluted with tert-butylmethyl ether, filtered, washed with cold heptane and left to dry under suction to yield 4-[4-(4-nitrophenyl)-3-oxo-3,5-dihydropyrazolo[4,3-c]quinolin-2-yl]-benzoic acid methyl ester (2.7 g, 76%) as an orange solid, LCMS m/z 441.35 [M+H]+ @ RT 1.66 min: 84% purity.

reactant | 4-Chloro-2-(4-nitrophenyl)-quinoline-3-carboxylic acid ethyl ester | 0.008 mol, 2.86 g | C(C)OC(=O)C=1C(=NC2=CC=CC=C2C1Cl)C1=CC=C(C=C1)[N+](=O)[O-] | C18H13ClN2O4
reactant | 4-hydrazino-benzoic acid methyl ester hydrochloride | 0.008 mol, 1.7 g | Cl.COC(C1=CC=C(C=C1)NN)=O
solvent | n-butanol | 70 mL | C(CCC)O | C4H10O
solvent | tert-butylmethyl ether | C(C)(C)(C)OC | C5H12O
product | 4-[4-(4-nitrophenyl)-3-oxo-3,5-dihydropyrazolo[4,3-c]quinolin-2-yl]-benzoic acid methyl ester | 2.7 g, 76% | COC(C1=CC=C(C=C1)N1N=C2C(=C(NC=3C=CC=CC23)C2=CC=C(C=C2)[N+](=O)[O-])C1=O)=O | C24H16N4O5
